US06143773
Step 1: 6,6-Dimethyl-3-phenylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
To a suspension of the 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (400 mg, 1.1 mmol) in EtOH (15 mL) was added thiophenol sodium salt (297 mg, 2.2 mmol). The mixture was stirred at room temperature for 3 h then the solvent evaporated. The residue was partitioned between EtOAc (20 mL) and water (30 mL). The organic phase was separated, dried (Na2SO4) and evaporated. The resultant oil was triturated with ether/hexane and the colourless solid (330 mg, 76%) collected by filtration. mp 140° C. C21H23NO2S2 requires: C, 65.42; H, 6.01; N, 3.63%. Found: C, 65.55; H, 5.77; N, 3.980%,. 1H NMR (360 MHz, CDCl3) δ1.07 (6H, s), 1.86-1.90 (4H, m), 2.43 (2H, s), 2.78 (2H, s), 3.36-3.60 (4H, m), 7.43-7.51 (3H, m), 7.67-7.70 (2H, m). MS (ES+) 386 (M+1).

reactant | 6,6-dimethyl-3-methanesulphonyl-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 1.1 mmol, 400 mg | CC1(CC(C=2C(=C(SC2S(=O)(=O)C)C(=O)N2CCCC2)C1)=O)C | C16H21NO4S2
reactant | thiophenol sodium salt | 2.2 mmol, 297 mg | [Na].C1(=CC=CC=C1)S
solvent | EtOH | 15 mL | CCO | C2H6O
product | 6,6-Dimethyl-3-phenylthio-1-(pyrrolidin-1-ylcarbonyl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | CC1(CC(C=2C(=C(SC2SC2=CC=CC=C2)C(=O)N2CCCC2)C1)=O)C | C21H23NO2S2
